US07547710B2
2-{[3-(aminomethyl)-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]oxy}-N-methylacetamide Dihydrochloride
To a solution of tert-butyl {[2-isobutyl-6-[2-(methylamino)-2-oxoethoxy]-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate (0.26 g, 0.53 mmol) in ethyl acetate (5 ml) was added 4N solution of hydrogen chloride in ethyl acetate (2 ml), and the mixture was stirred at room temperature for 3 hrs. The reaction mixture was concentrated under reduced pressure and crystallized from diisopropyl ether to give the title compound (0.20 g, yield 79%) as pale-yellow crystals.

reactant | tert-butyl {[2-isobutyl-6-[2-(methylamino)-2-oxoethoxy]-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate | 0.53 mmol, 0.26 g | C(C(C)C)C1=NC2=CC=C(C=C2C(=C1CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C)OCC(=O)NC | C29H37N3O4
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 2-{[3-(aminomethyl)-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]oxy}-N-methylacetamide Dihydrochloride | 0.20 g, yield 79% | Cl.Cl.NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)OCC(=O)NC)CC(C)C | InChI=1S/C24H29N3O2.2ClH/c1-15(2)11-22-20(13-25)24(17-7-5-16(3)6-8-17)19-12-18(9-10-21(19)27-22)29-14-23(28)26-4;;/h5-10,12,15H,11,13-14,25H2,1-4H3,(H,26,28);2*1H
